US07585885B2
(S)-2-sec-Butylamino-6-(cyclopropanesulfonyl-methylamino)-isonicotinic acid methyl ester
Dissolve (S)-2-sec-butylamino-6-chloro-isonicotinic acid methyl ester (880 mg, 3.6 mmol), tris(dibenzylideneacetone)dipalladium (0) (164 mg, 0.18 mmol), 2-(di-tert-butylphosphino)biphenyl (107 mg, 0.36 mmol) in toluene (18 mL) and THF (2 mL) in a previously nitrogen-filled sealed vessel. Add sodium cyclopropanesulfonic acid methylamide (700 mg, 4.42 mmol) into the mixture under nitrogen and flush the reactants again with nitrogen before sealing and heating overnight at 100° C. Cool the reaction to room temperature and dilute with ethyl acetate and diethyl ether and filter through a filtering agent. Concentrate and purify (silica gel chromatography, eluting with 0:100 to 08:92 ethyl acetate:hexanes) to give the title compound.

reactant | (S)-2-sec-butylamino-6-chloro-isonicotinic acid methyl ester | 3.6 mmol, 880 mg | COC(C1=CC(=NC(=C1)Cl)N[C@@H](C)CC)=O | C11H15ClN2O2
reactant | 2-(di-tert-butylphosphino)biphenyl | 0.36 mmol, 107 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium cyclopropanesulfonic acid methylamide | 4.42 mmol, 700 mg | CNS(=O)(=O)C1CC1.[Na]
solvent | toluene | 18 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.18 mmol, 164 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (S)-2-sec-Butylamino-6-(cyclopropanesulfonyl-methylamino)-isonicotinic acid methyl ester | COC(C1=CC(=NC(=C1)N(C)S(=O)(=O)C1CC1)N[C@@H](C)CC)=O | C15H23N3O4S
